US07960561B2
N-(Benzimidazol-2-yl)-2,3,4-trifluoroaniline
The title compound was prepared from 2-chlorobenzimidazole and 2,3,4-trifluoroaniline by Procedure A. The product was isolated by filtration and preparative LCMS to give the title compound as the free base (white solid, mp 182-183° C.). MS(ES+) m/z 264 ([M+1]+, 100).

reactant | 2-chlorobenzimidazole | ClC=1NC2=C(N1)C=CC=C2 | C7H5ClN2
reactant | 2,3,4-trifluoroaniline | FC1=C(N)C=CC(=C1F)F | C6H4F3N
product | N-(Benzimidazol-2-yl)-2,3,4-trifluoroaniline | N1=C(NC2=C1C=CC=C2)NC2=C(C(=C(C=C2)F)F)F | C13H8F3N3
